US03992535
4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide was prepared analogous to Example 22 from 4-hydroxy-2-methyl-2H-Naphtho[ 2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide and 2-amino-5-methyl-thiazole. Yield: 67% of theory, m.p. 249°-250° C (decomp.; from xylene).

reactant | 4-hydroxy-2-methyl-2H-Naphtho[ 2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 2-amino-5-methyl-thiazole | NC=1SC(=CN1)C | C4H6N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | Yield: 67% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC=1SC(=CN1)C | C18H15N3O4S2
